US09284308B2
N-Methoxy-N,2,6-trimethylisonicotinamide
To 2,6-dimethylisonicotinic acid (1.00 g, 6.61 mmol) in DCM (8.3 mL), CDI (1.18 g, 7.27 mmol) was added and the mixture was stirred for 45 minutes after which N,O-dimethylhydroxylamine hydrochloride (0.71 g, 7.3 mmol) was added and the mixture was stirred for 20 hours. The reaction mixture was quenched with 0.3 M aqueous solution of NaOH and partitioned between water and DCM. The aqueous layer was extracted with DCM, washed with aqueous saturated solution of NaCl, dried (MgSO4) and concentrated. The crude product was purified by flash column chromatography (silica gel, 0-100% EtOAc-DCM) to provide the title compound.

reactant | 2,6-dimethylisonicotinic acid | 6.61 mmol, 1.00 g | CC=1C=C(C(=O)O)C=C(N1)C | C8H9NO2
reactant | CDI | 7.27 mmol, 1.18 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 7.3 mmol, 0.71 g | Cl.CNOC
solvent | DCM | 8.3 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N,2,6-trimethylisonicotinamide | CON(C(C1=CC(=NC(=C1)C)C)=O)C | C10H14N2O2
